US07262310B2
Thus obtained (R)-4-chloro-1,3-butanediol (35.8 g, 0.287 mol) was dissolved in 2,6-lutidine (180 mL). After adding p-toluenesulfonyl chloride (54.8 g, 287 mol) under ice cooling, temperature of the mixture was raised to room temperature and the mixture was stirred for 15 hours. After the reaction, 2,6-lutidine was removed in vacuo. To the residue were added ethyl acetate (150 mL) and water (75 mL) and the mixture was separated by a separating funnel. The organic layer was washed with 2N hydrochloric acid (100 mL) and saturated brine (70 mL), and the solvent was removed in vacuo to give (R)-4-chloro-3-hydroxy-1-p-toluenesulfonyloxybutane (56.7 g, yield: 70.8%).

reactant | (R)-4-chloro-1,3-butanediol | 0.287 mol, 35.8 g | ClC[C@@H](CCO)O | C4H9ClO2
reactant | p-toluenesulfonyl chloride | 287 mol, 54.8 g | C1(=CC=C(C=C1)S(=O)(=O)Cl)C | C7H7ClO2S
solvent | 2,6-lutidine | 180 mL | N1=C(C=CC=C1C)C | C7H9N
product | (R)-4-chloro-3-hydroxy-1-p-toluenesulfonyloxybutane | 56.7 g, yield: 70.8% | ClC[C@@H](CCOS(=O)(=O)C1=CC=C(C=C1)C)O | C11H15ClO4S
